US04716222
Preparation of Tos-Gly-Pro-Arg-resazurin
1 mmol of Tos-Gly-Pro-Arg-OH was suspended in 30 ml of tetrahydrofuran (dry). 4 mmol of ethyl chloroformate were added at room temperature, and the mixture was stirred for about 15 minutes and cooled to -10° C. 3 mmol of N-methylmorpholine were added and the mixture was stirred at room temperature for 60 minutes. 3 mmol of resazurin in 60 ml of desiccated tetrahydrofuran were then admixed dropwise. The reaction was complete after 4 h and the mixture was filtered and the filtrate was evaporated.

reactant | Tos-Gly-Pro-Arg-OH | 1 mmol | N(CC(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1)S(=O)(=O)C1=CC=C(C)C=C1 | C20H30N6O6S
reactant | ethyl chloroformate | 4 mmol | ClC(=O)OCC | C3H5ClO2
reactant | N-methylmorpholine | 3 mmol | CN1CCOCC1 | C5H11NO
reactant | resazurin | 3 mmol | C1=CC2=C(C=C1O)OC3=CC(=O)C=CC3=[N+]2[O-] | C12H7NO4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | Tos-Gly-Pro-Arg resazurin | N(CC(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1)S(=O)(=O)C1=CC=C(C)C=C1.C1=CC2=C(C=C1O)OC3=CC(=O)C=CC3=[N+]2[O-] | InChI=1S/C20H30N6O6S.C12H7NO4/c1-13-6-8-14(9-7-13)33(31,32)24-12-17(27)26-11-3-5-16(26)18(28)25-15(19(29)30)4-2-10-23-20(21)22;14-7-1-3-9-11(5-7)17-12-6-8(15)2-4-10(12)13(9)16/h6-9,15-16,24H,2-5,10-12H2,1H3,(H,25,28)(H,29,30)(H4,21,22,23);1-6,14H/t15-,16-;/m0./s1
